US05593983
4-Toluenesulfonyl chloride (166.1 g) was added portionwise to a stirred solution of 1-[(2-hydroxyethyl)amino]-2-methyl-2-propanol (58.0 g) in pyridine (275 ml) at 0°-10° C. The resulting solution was stirred at room temperature for 15 h and then poured into water (1 l). The mixture was extracted with dichloromethane and the organic phase was washed with hydrochloric acid (2.5M) and brine. After drying over magnesium sulfate, the solvent was removed under reduced pressure to give 1-{N-[(4-methylphenyl)sulfonyl]-N-[(4-methylphenyl)sulfonyloxyethyl]amino}-2-methyl-2-propanol (155.8 g). δ (CDCl3) 1.23 (s,6H), 2.44,2.46 (6H), 3.08 (s,2H), 3.45 (t,2H), 4.35 (t,2H) and 7.25-7.85 (m,8H).

reactant | 4-Toluenesulfonyl chloride | 166.1 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 1-[(2-hydroxyethyl)amino]-2-methyl-2-propanol | 58.0 g | OCCNCC(C)(O)C | C6H15NO2
reactant | water | 1 l | O | H2O
solvent | pyridine | 275 ml | N1=CC=CC=C1 | C5H5N
product | 1-{N-[(4-methylphenyl)sulfonyl]-N-[(4-methylphenyl)sulfonyloxyethyl]amino}-2-methyl-2-propanol | 155.8 g | CC1=CC=C(C=C1)S(=O)(=O)N(CCOS(=O)(=O)C1=CC=C(C=C1)C)CC(C)(O)C | C20H27NO6S2
